US09212190B2
A solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (400 mg, 0.90 mmol, 1.00 equiv) in DCM (10 mL) was added concentrated hydrochloric acid (0.5 mL) at 0° C. The resulting solution was stirred for 2 h at room temperature. The pH value of the solution was adjusted to 10 with saturated aqueous sodium bicarbonate, extracted with dichloromethane (50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was dissolved in 5 mL of MeOH (5 mL), oxetan-3-one (288 mg, 4.00 mmol, 10.00 equiv) was added and the reaction was stirred for around 30 min. Then NaBH3CN (76 mg, 1.21 mmol, 3.00 equiv) was added and the resulting solution was stirred overnight at 35° C. The reaction was then quenched by the addition of cooled brine, extracted with DCM (50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (110 mg) was purified by preparative HPLC under the following conditions (Waters): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with NH4HCO3 and CH3CN (5.0% CH3CN up to 45.0% in 12 min, up to 95.0% in 2 min, down to 5.0% in 2 min); UV detection at 254/220 nm. Flow rate: 20 mL/min. The desired 2-[(3R)-12-([4-[(oxetan-3-yl)amino]cyclohexyl]oxy)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide (90 mg) was obtained as a white solid. MS: m/z 403 (M+H)+. 1H NMR (300 MHz, CDCl3): δ 8.51 (s, 1H), 5.24-5.35 (m, 3H), 4.85 (t, 2H, J=6.9 Hz), 4.46 (t, 2H, J=6.9 Hz), 4.06-4.11 (m, 1H), 3.80-3.85 (m, 1H), 2.95-3.21 (m, 3H), 2.78-2.86 (m, 1H), 2.55-2.71 (m, 1H), 2.21-2.33 (m, 4H), 1.91-1.99 (m, 2H), 1.57-1.74 (m, 4H), 1.29-1.43 (m, 4H).

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.90 mmol, 400 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC(OC(C)(C)C)=O | C22H30N4O4S
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | oxetan-3-one | 4.00 mmol, 288 mg, 10.00 equiv | O1CC(C1)=O | C3H4O2
reactant | NaBH3CN | 1.21 mmol, 76 mg, 3.00 equiv | [BH3-]C#N.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3R)-12-([4-[(oxetan-3-yl)amino]cyclohexyl]oxy)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide | 90 mg | O1CC(C1)NC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)N | C20H26N4O3S
